2159-07-19 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   --trop leak 0.05, 0.2, 0.15; CKMB 10 and 10 (for last 2 trops)
   --intermitently of BiPAP, tolerated 2L NC for 7hrs overnight.  Briefly
   on BiPAP in the am because of desats to 88-90%.  Currently on 2L NC.
   --ABG 7.42/47/88 lat 1.1
   Allergies:
   Amiodarone
   worsening COPD;
   Proscar (Oral) (Finasteride)
   breast sensitiv
   Sotalol
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2159-7-18**] 01:54 PM
   Cefipime - [**2159-7-18**] 08:09 PM
   Vancomycin - [**2159-7-18**] 08:54 PM
   Metronidazole - [**2159-7-19**] 12:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2159-7-18**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-7-19**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.1
C (97
   HR: 101 (96 - 121) bpm
   BP: 108/56(73) {97/56(69) - 137/73(95)} mmHg
   RR: 18 (17 - 30) insp/min
   SpO2: 89%
   Heart rhythm: V Paced
   Height: 70 Inch
             Total In:
                                                                  2,467 mL
                                                                    164 mL
   PO:
             TF:
   IVF:
                                                                  1,117 mL
                                                                    164 mL
   Blood products:
   Total out:
                                                                    550 mL
                                                                    625 mL
   Urine:
                                                                    550 mL
                                                                    625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,917 mL
                                                                   -461 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PPS
   Vt (Spontaneous): 300 (300 - 694) mL
   PS : 10 cmH2O
   RR (Spontaneous): 30
   PEEP: 8 cmH2O
   FiO2: 30%
   SpO2: 89%
   ABG: 7.42/47/87.[**Numeric Identifier 274**]/25/4
   Ve: 6.1 L/min
   PaO2 / FiO2: 293
   Physical Examination
   General: Alert, oriented, pursed lip breathing, accessory muscle use.
   Pt able to speak in short, full sentences.
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple
   Lungs: mild labored breathing, tachypneic, Poor inspiratory effort,
   decreased BS bilaterally, scatered wheezes throughout, no rales,
   rhonchi
   CV: Tachy, Regular rhythm, normal S1 + S2, no rubs, gallops
   Abdomen: ventral hernia, reducible, soft, non-tender, non-distended,
   bowel sounds hypoactive, no rebound tenderness or guarding
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or trace
   edema
   Neuro: A&Ox3
   Labs / Radiology
   165 K/uL
   10.4 g/dL
   137 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.0 mEq/L
   18 mg/dL
   107 mEq/L
   141 mEq/L
   31.3 %
   14.0 K/uL
        [image002.jpg]
   D-dimer <150
                             [**2159-7-18**]  11:55 AM
                             [**2159-7-18**]  12:52 PM
                             [**2159-7-18**]  06:18 PM
                             [**2159-7-18**]  10:13 PM
                             [**2159-7-19**]  12:24 AM
                             [**2159-7-19**]  03:36 AM
                             [**2159-7-19**]  03:58 AM
   WBC
   16.3
   14.0
   Hct
   33.3
   31.3
   Plt
   166
   165
   Cr
   0.9
   0.8
   TropT
   0.20
   0.15
   TCO2
   32
   31
   27
   32
   Glucose
   176
   137
   Other labs: PT / PTT / INR:34.4/28.1/3.5, CK / CKMB /
   Troponin-T:107/10/0.15, Differential-Neuts:92.7 %, Lymph:2.3 %,
   Mono:4.9 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L, Ca++:8.0 mg/dL, Mg++:1.8
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   This is a 71 year-old male with a history of severe COPD (FEV1 24%
   predicted) on home 02, a-fib on coumadin, diastolic CHF, AS (valve area
   1.0 cm) who presents with sepsis and respiratory distress.
   .
   Plan:
   # Sepsis - Patient met SIRS criteria with tachycardia, fever (103), and
   leukocytosis.  Transiently hypotensive (80s/50s) on admission to the
   ICU, responsive to 600mL IVF and had an elevated lactate, no resolved
   (high 4.0, now 1.1). Likely source is pulmonary given clinical symptoms
   and resp distress. CXR clear and no infiltrate .  Other sources include
   abdomen given h/o C. diff, but without localizing abd symptoms. UA neg.
   No other clear source of infection.  Legionella antigen (-).
   - IV fluid boluses to maintain MAP > 65 and UOP > 30cc/hr
   - cont broad spectrum antiobiotics with Vanco (MRSA + in past),
   Cefepime (pseudommonal coverage given COPD and frequent
   hospitalizations) and levo (will consider dc levo if no worsening of
   sepsis and QTc continues to rise, currently 459, given (-) legionella).
   - will cont flagyl for c. diff coverage until stool c. diff (-)
   - Follow-up blood, urine and sputum cultures
   -  f/u respiraotory viral screen and flu DFA
   - Trend WBC count fever curve.
   #Cardiac Ischemia:  Pt
s trops have been trending up since admission
   0.05, 0.2,  . CKMB 10 and.  Most likely explanation is NSTEMI due to
   demand ischemia driven by sepsis and tachycardia.
   - started asa 325mg
   - TTE today
   - f/u last trop, CKMB
   - currently on statins for sepsis study but given NSTEMI will remove
   from study and start a statin
   #. Hypercapneic Respiratory Failure: Pt with severe COPD presented with
   increased WOB and SOB. Was placed on BiPAP but quickly transitioned to
   baseline 2L NC (since 11pm last night). Most likely COPD exacerbation
   in the setting of sepsis. Other possibility, althought, PE given
   tachycardia, although pt is already anti-coagulated and D-Dimer (-).
   Being treated w/ Cefep/Vanco/levo/flagyl.  Receiving nebs and
   methylpred. ABG improved on BiPAP.  No evidence of overload on exam or
   CXR.
   - follow patient with repeat ABG and close monitoring of resp status
   - cont albuterol and ipratropium nebs
   - cont methylpred 60mg q6
   - treat with Vanco/Zosyn/Levo
   - f/u CXR
   - f/u cx
   - pulmonary toliet
   - cont Atovaquone 1500mg for PCP [**Name Initial (PRE) 1694**]
   .
   #. Diastolic CHF (EF >55%): Pt appears euvolemic on exam.  He is on
   lasix at home. BNP: 380 (prior 398). CXR did not show edema or
   effusions that would inidicate acute exacerbation.
   - Will monitor volume status
   - hold home lasix for now
   .
   #. H/o Atrial fibrillation: s/p AV junction ablation & [**Company **] dual
   chamber pacer placement in [**2153**].  Pt is on coumadin and INR 3.4. Pt is
   on Dofetilide and Dilt.
   - re-start dilt at
 home dose
   - cont Dofetilide 375 mcg Q12H
   - hold coumadin for now
   - TTE
   .
   #. Aortic stenosis: Pt valve area 1.0 on cath [**4-27**]. Currently stable
   and will monitor closely.  Pt is pre-load dependent.
   - replete fluids as necessary to maintain preload
   - TTE
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2159-7-18**] 12:34 PM
   Arterial Line - [**2159-7-18**] 01:34 PM
   20 Gauge - [**2159-7-18**] 03:30 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU level of care
   ------ Protected Section ------
   MICU ATTENDING PROGRESS NOTE
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points: 71 M sev copd (2L O2, chronic steroids) d
   chf, a- flutter s/p ablation/PCM, recent admit [**Date range (1) 7495**] for copd exac,
   recent c-diff infection s/p course flagyl p/w sepsis and acute on
   chronic hypercarbic resp failure. Remained on intermittent NiPPV.
   Hypotension resolved after IVF bolus.
   Tm 99.1  BP 108/56 HR 90-120  RR 18  sat 92% 2L NC
   Obese M, alert, pursed lip breathing, diminished AM, prolonged exp, +
   exp wheeze, s1 s2, + systolic m, + BS, nt, soft, no edema, warm ext
   Labs reviewed:
        Repeat abg 7.42/47/88 2L NC
        Wbc 17.7-->14, hct 31.3,  cr 0.8, INR 3.5, trop 0.05-->0.2->0.15
        Lactate 1.1
        Micro--pending, viral panel neg, urine legionella ag neg
   CXR: pacer, no focal infil, mild interstitial edema
   A/P:  Primary issues include
     * Sepsis
     * Copd exac
     * Acute on chronic hypercarbic resp failure
     * NSTEMI
     * d chf
     * fib post ablation, PCM
     * Severe AS
   Immunosuppressed host on chronic steroids.  Possible etiologies for
   septic presentation include resp process (neg CXR), c diff, unlikely
   UTI (neg u/a).? viral process given diarrhea and resp sxs. Cx data is
   unrevealing to date. Agree with plan to continue broad empiric antibx
   coverage (vanco, cef, flagyl, levo), tapering per cx data over the next
   1-2 days. It is reasonable to continue levo for atypical coverage,
   monitoring ecg and Qtc. NSTEMI/troponin elevation is likely related to
   demand ischemia in pt with severe AS in setting of tachycardia and
   hypot. His CEs have peaked at 0.2 and are now trending down. Will
   obtain TTE to reassess cardiac fx, continue asa, start statin and
   notify pts cardiologist  His air movement remains poor and he is
   wheezy
would continue current dose of steroids and NEBS for COPD
   flare. Continue using intermittent NiPPV, monitoring abgs/signs of
   fatigue. His hypotension and tachycardia have resolved with IVFs and he
   is now af with improving leukocytosis. Would resume low dose rate
   control regimen (on CCB at home).  Keep NPO given tenuous resp status.
   Remainder of plan as outlined in resident note.
   Patient is critically ill
   Total time: 50 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 209**] [**Last Name (NamePattern1) 210**], MD
   on:[**2159-7-19**] 03:32 PM ------

2159-07-20 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2159-7-19**] 09:30 AM
 ARTERIAL LINE - STOP [**2159-7-20**] 12:33 AM
   .
   --TTE: severe AS (0.8-1.0), nl EF, mod pulm hypertn
   --cardiac enzymes: stable (last set CK 94  MB 10  MBI 10.6  Trop-T
   0.16)
   --off study: now started on atorvastatin
   --off BIPAP this AM, pt wanted to be on it overnight
   --Lactate 2.3 up from 1.1 over 24 hrs
   --started on NS 100cc/hr
   --pulled A-line at night
   Allergies:
   Amiodarone
   worsening COPD;
   Proscar (Oral) (Finasteride)
   breast sensitiv
   Sotalol
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2159-7-18**] 01:54 PM
   Levofloxacin - [**2159-7-19**] 07:30 AM
   Cefipime - [**2159-7-19**] 07:00 PM
   Vancomycin - [**2159-7-19**] 08:00 PM
   Metronidazole - [**2159-7-20**] 12:08 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2159-7-19**] 09:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-7-20**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 70 (70 - 114) bpm
   BP: 99/65(72) {99/59(72) - 122/77(84)} mmHg
   RR: 18 (17 - 32) insp/min
   SpO2: 98%
   Heart rhythm: VF (Ventricular Fibrillation)
   Wgt (current): 82.3 kg (admission): 79.5 kg
   Height: 70 Inch
             Total In:
                                                                  1,800 mL
                                                                    927 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                  1,440 mL
                                                                    927 mL
   Blood products:
   Total out:
                                                                  1,755 mL
                                                                    410 mL
   Urine:
                                                                  1,755 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     45 mL
                                                                    519 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, 2L
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 524 (494 - 690) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 30%
   SpO2: 98%
   ABG: 7.44/40/99.[**Numeric Identifier 8**]/23/2
   Ve: 9.2 L/min
   PaO2 / FiO2: 333
   Physical Examination
   General: Alert, oriented, pursed lip breathing, accessory muscle use.
   Pt able to speak in short, full sentences.
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple
   Lungs: mild labored breathing, tachypneic, Poor inspiratory effort,
   decreased BS bilaterally, scatered wheezes throughout, no rales,
   rhonchi
   CV: Tachy, Regular rhythm, normal S1 + S2, no rubs, gallops
   Abdomen: ventral hernia, reducible, soft, non-tender, non-distended,
   bowel sounds hypoactive, no rebound tenderness or guarding
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or trace
   edema
   Neuro: A&Ox3
   Labs / Radiology
   181 K/uL
   10.2 g/dL
   169 mg/dL
   0.9 mg/dL
   23 mEq/L
   4.0 mEq/L
   20 mg/dL
   107 mEq/L
   141 mEq/L
   31.9 %
   16.1 K/uL
        [image002.jpg]
                             [**2159-7-18**]  10:13 PM
                             [**2159-7-19**]  12:24 AM
                             [**2159-7-19**]  03:36 AM
                             [**2159-7-19**]  03:58 AM
                             [**2159-7-19**]  06:32 AM
                             [**2159-7-19**]  05:48 PM
                             [**2159-7-19**]  08:58 PM
                             [**2159-7-19**]  09:51 PM
                             [**2159-7-20**]  02:46 AM
                             [**2159-7-20**]  03:26 AM
   WBC
   14.0
   16.1
   Hct
   31.3
   31.9
   Plt
   165
   181
   Cr
   0.8
   0.9
   TropT
   0.20
   0.15
   0.16
   0.11
   TCO2
   27
   32
   28
   29
   28
   Glucose
   137
   169
   Other labs: PT / PTT / INR:34.9/30.1/3.6, CK / CKMB /
   Troponin-T:91/8/0.11, ALT / AST:25/20, Alk Phos / T Bili:46/0.6,
   Differential-Neuts:93.2 %, Lymph:1.9 %, Mono:4.6 %, Eos:0.2 %, Lactic
   Acid:2.3 mmol/L, LDH:293 IU/L, Ca++:8.5 mg/dL, Mg++:2.6 mg/dL, PO4:2.3
   mg/dL
   .
   C diff: positive
   .
   Cultures
 pend
   .
   CXR: interval improvement from prior
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   .
   This is a 71 year-old male with a history of severe COPD (FEV1 24%
   predicted) on home 02, a-fib on coumadin, diastolic CHF, AS (valve area
   1.0 cm) who presents with sepsis and respiratory distress.
   .
   Plan:
   #. Hypercapneic Respiratory Failure: Pt with severe COPD presented with
   increased WOB and SOB. Was placed on BiPAP but quickly transitioned to
   baseline 2L NC (since 11pm last night). Most likely COPD exacerbation
   in the setting of sepsis. Other possibility, althought, PE given
   tachycardia, although pt is already anti-coagulated and D-Dimer (-).
   Receiving nebs and methylpred. ABG oxygenation improved on BiPAP.  No
   evidence of overload on exam or CXR.
   - follow patient with repeat ABG and close monitoring of resp status
   - cont intermittent BIPAP and 2L NC
   - cont albuterol and ipratropium nebs
   - taper methylpred 60mg q6 to 40mg q6h
   - adjust abx as below for potential infx etiologies
   - f/u CXR
   - f/u cx
   - pulmonary toliet
   - cont Atovaquone 1500mg for PCP [**Name Initial (PRE) 1694**]
   .
   # Sepsis - Patient met SIRS criteria with tachycardia, fever (103), and
   leukocytosis.  Transiently hypotensive (80s/50s) on admission to the
   ICU, responsive to 600mL IVF and had an elevated lactate, resolved
   (high 4.0, now 1.1), then returned to 2.3. Likely source is pulmonary
   given clinical symptoms and resp distress. CXR clear and no infiltrate
   .  C. diff positive today (has h/o C. diff). UA neg. No other clear
   source of infection.  Legionella antigen (-). Lactate inc to 2.3 today,
   and WBC up to 16, likely due to C diff, may be resistant. Given no
   pulmonary sources yet and improving CXR, can change to atypical
   coverage. Also, QTc slightly increased today so will avoid meds
   accordingly.
   - IV fluid boluses to maintain MAP > 65 and UOP > 30cc/hr
   - change flagyl to PO Vanco for C diff
   - d/c IV Vanco/ cefepime/levo
 change to doxycycline 100 [**Hospital1 **] for
   atypical coverage
   - Follow-up blood, urine and sputum cultures
   - f/u respiraotory viral screen and flu DFA
   - Trend WBC count fever curve.
   - repeat ABG later today for lactate
   .
   # Hematuria
 while examining pt with team today, red urine noted in
   foley bag. Uncertain etiology given Cr and HCT stable. Most likely
   traumatic foley
   - f/u UA
   .
   #Cardiac Ischemia:  Pt
s trops have been trending up since admission
   0.05, 0.2,  CKMB 10 and.  Most likely explanation is NSTEMI due to
   demand ischemia driven by sepsis and tachycardia.
   - started asa 325mg
   - TTE today
   - f/u last trop, CKMB
   - currently on statins for sepsis study but given NSTEMI will remove
   from study and start a statin
   .
   #. Diastolic CHF (EF >55%): Pt appears euvolemic on exam.  He is on
   lasix at home. BNP: 380 (prior 398). CXR did not show edema or
   effusions that would inidicate acute exacerbation.
   - Will monitor volume status
   - restart home lasix 30 po daily
   .
   #. H/o Atrial fibrillation: s/p AV junction ablation & [**Company **] dual
   chamber pacer placement in [**2153**].  Pt is on coumadin and INR 3.6 today.
   Pt is on Dofetilide and Dilt.
   - cont dilt at
 home dose
   - cont Dofetilide 375 mcg Q12H
   - hold coumadin for now
   - TTE
   .
   #. Aortic stenosis: Pt valve area 1.0 on cath [**4-27**]. Currently stable
   and will monitor closely.  Pt is pre-load dependent.
   - replete fluids as necessary to maintain preload
   - TTE
   .
   ICU Care
   Nutrition: ADAT
   Glycemic Control:
   Lines:
   Hold off on PICC today given INR 3.6
   18 Gauge - [**2159-7-18**] 12:34 PM
   20 Gauge - [**2159-7-18**] 03:30 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU until no longer on intermittent BIPAP during the day
   ------ Protected Section ------
   MICU ATTENDING PROGRESS NOTE
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points: 71 M sev copd (2L O2, chronic steroids) d
   chf, a- flutter s/p ablation/PCM, recent admit [**Date range (1) 7495**] for copd exac,
   recent c-diff infection s/p course flagyl p/w sepsis, acute on chronic
   hypercarbic resp failure, and copd exacerbation. His respiratory status
   continues to improve, tolerating NC yesterday, resting on BiPAP
   overnight.
   Tm 98.4  BP 100/65   HR 70  RR 18  sat 98% 2L NC
   Obese M, alert, + pursed lip breathing, improving AM, prolonged exp,
   continued exp wheeze, s1 s2, + systolic m, + BS, nt, soft, no edema,
   warm ext
   Labs reviewed:
        Repeat abg 7.42/47/88 2L NC
        Wbc 16, hct 31.9, cr 0.9, INR 3.6
        Lactate 1.1-->2.3
        Micro
bl NGTD, stool + c diff
   CXR: pacer, no focal infil, improvement in interstitial edema
   Etiology of presenting sepsis is somewhat unclear--? [**1-22**] severe diff
   recurrence in pt with limited pulm and cardiac reserve (sev AS). Agree
   with plan to taper antibx given neg cx results and clear cxr.  Would
   change to PO vanco for c. diff recurrence.  Will d/c vanco/cefepime,
   and change levo to doxy for COPD/bronchitis, given antiarrythmics.
   Needs repeat ecg to follow QTc.  NSTEMI/troponin elevation likely
   related to demand ischemia in pt with severe AS in setting of
   tachycardia and hypot. His CEs peaked at 0.2 and are now down. His TTE
   was essentially unchanged from prior. We continue asa and statin and
   home regimen of lasix and dilt.  We continue to hold his coumadin given
   supra-therapeutic INR. His air movement is improving but he remains
   wheezy--would start slow steroid taper, continuing NEBS for COPD
   flare. Would continue NiPPV intermittently.  He apparently has BiPAP at
   home, but does not use.  Would benefit from this as outpt given his
   chronic CO2 retention. Will monitor his lactate.  Remainder of plan as
   outlined in resident note.
   Patient is critically ill, continue to monitor resp status closely in
   ICU
   Total time: 50 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 209**] [**Last Name (NamePattern1) 210**], MD
   on:[**2159-7-20**] 06:14 PM ------

2159-07-21 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2159-7-20**] 08:02 AM
   --Patient has hematuria in Foley. ?traumatic catheter? Sent a U/A.
   --had low UOP and Foley found to have clots. Replaced and placed on
   CBI.
   --EKG had prolonged QT in AM, resolved to normal in PM. Dofetilide
   D/C'ed.
   --Did not want BiPap last night.
   Allergies:
   Amiodarone
   worsening COPD;
   Proscar (Oral) (Finasteride)
   breast sensitiv
   Sotalol
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2159-7-18**] 01:54 PM
   Levofloxacin - [**2159-7-19**] 07:30 AM
   Metronidazole - [**2159-7-20**] 12:08 AM
   Cefipime - [**2159-7-20**] 08:00 AM
   Vancomycin - [**2159-7-21**] 06:18 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2159-7-20**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-7-21**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.3
   HR: 76 (70 - 83) bpm
   BP: 120/70(80) {103/47(58) - 138/121(126)} mmHg
   RR: 26 (20 - 33) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Wgt (current): 82.3 kg (admission): 79.5 kg
   Height: 70 Inch
             Total In:
                                                                  2,070 mL
                                                                    311 mL
   PO:
                                                                    480 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,590 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    400 mL
   Urine:
                                                                  1,000 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,070 mL
                                                                    -90 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General: Alert, oriented, pursed lip breathing, accessory muscle use.
   Pt able to speak in short, full sentences.
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple
   Lungs: Poor air entry. + wheezing throughout. No crackles or rhonchi.
   CV: Tachy, Regular rhythm, II/VI systolic murmur heard best in aortic
   region. normal S1 + S2, no rubs, gallops
   Abdomen: ventral hernia, reducible, soft, non-tender, non-distended,
   positive bowel sounds, no rebound tenderness or guarding
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or trace
   edema
   Neuro: A&Ox3
   Labs / Radiology
   217 K/uL
   10.8 g/dL
   121 mg/dL
   0.9 mg/dL
   28 mEq/L
   4.2 mEq/L
   34 mg/dL
   107 mEq/L
   144 mEq/L
   34.0 %
   16.4 K/uL
        [image002.jpg]
                             [**2159-7-19**]  12:24 AM
                             [**2159-7-19**]  03:36 AM
                             [**2159-7-19**]  03:58 AM
                             [**2159-7-19**]  06:32 AM
                             [**2159-7-19**]  05:48 PM
                             [**2159-7-19**]  08:58 PM
                             [**2159-7-19**]  09:51 PM
                             [**2159-7-20**]  02:46 AM
                             [**2159-7-20**]  03:26 AM
                             [**2159-7-21**]  05:28 AM
   WBC
   14.0
   16.1
   16.4
   Hct
   31.3
   31.9
   34.0
   Plt
   165
   181
   217
   Cr
   0.8
   0.9
   0.9
   TropT
   0.15
   0.16
   0.11
   TCO2
   27
   32
   28
   29
   28
   Glucose
   137
   169
   121
   Other labs: PT / PTT / INR:26.9/24.4/2.6, CK / CKMB /
   Troponin-T:91/8/0.11, ALT / AST:25/20, Alk Phos / T Bili:46/0.6,
   Differential-Neuts:91.8 %, Lymph:2.2 %, Mono:5.8 %, Eos:0.1 %, Lactic
   Acid:2.3 mmol/L, LDH:293 IU/L,
    Ca++:8.7 mg/dL, Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   U/A ([**7-20**]): gross blood, no nitrite/leukocytes, 1 WBC, 0 epithelial
   cells
   Pending cultures:
   Blood ([**7-18**]): no growth to date
   Urine: no growth, final
   Sputum: contaminated
   CXR: Pacer visualized on the left. Full lung fields. No consolidations.
   +cardiomegaly
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   This is a 71 year-old male with a history of severe COPD (FEV1 24%
   predicted) on home 02, a-fib on coumadin, diastolic CHF, AS (valve area
   1.0 cm) who presents with sepsis and respiratory distress.
   .
   Plan:
   #. Acute COPD exacerbation: The patient presented with hypercapneic
   Respiratory Failure: Pt with severe COPD presented with increased WOB
   and SOB. Was placed on BiPAP but quickly transitioned to baseline 2L NC
   (since 11pm last night). Most likely COPD exacerbation in the setting
   of sepsis. Other possibility, althought, PE given tachycardia, although
   pt is already anti-coagulated and D-Dimer (-). Receiving nebs and
   methylpred. ABG oxygenation improved on BiPAP.  No evidence of overload
   on exam or CXR.
   - follow patient with repeat ABG and close monitoring of resp status
   - cont intermittent BIPAP and 2L NC
   - Given doxycycline (treatment started on [**7-18**]). Will treat for 7 days
   - cont albuterol and ipratropium nebs
   - taper methylpred 60mg q6 to 40mg [**Hospital1 **]. Will switch to PO tomorrow.
   - adjust abx as below for potential infx etiologies
   - f/u CXR
   - f/u cx
   - pulmonary toliet
   - cont Atovaquone 1500mg for PCP [**Name Initial (PRE) 1694**]
   .
   # Sepsis - Patient met SIRS criteria with tachycardia, fever (103), and
   leukocytosis.  Transiently hypotensive (80s/50s) on admission to the
   ICU, responsive to 600mL IVF and had an elevated lactate, resolved
   (high 4.0, now 1.1), then returned to 2.3. Likely source is pulmonary
   given clinical symptoms and resp distress. CXR clear and no infiltrate
   .  C. diff positive today (has h/o C. diff). UA neg. No other clear
   source of infection.  Legionella antigen (-). Lactate inc to 2.3 today,
   and WBC up to 16, likely due to C diff, may be resistant. Given no
   pulmonary sources yet and improving CXR, can change to atypical
   coverage. Also, QTc slightly increased so will avoid meds accordingly.
   - IV fluid boluses to maintain MAP > 65 and UOP > 30cc/hr
   - change flagyl to PO Vanco (started [**6-22**]) for C diff  for a [**10-3**] day
   course
   - Follow-up blood culture
   - Trend WBC count fever curve.
   #. H/o Atrial fibrillation: s/p AV junction ablation & [**Company **] dual
   chamber pacer placement in [**2153**].  Pt is on coumadin at home. Pt
   currently on dilt. Dofetilide held due to increased QT interval (due to
   concominant use of Levaquin).
   - cont dilt at
 home dose
   - Since QT normal, start Dofetilide 375 mcg Q12H
   - INR therapeutic, so will start home dose of Coumadin 5 mg today
   - Patient needs a TTE
   #Cardiac Ischemia:  patient had a troponin leak in the context of
   respiratory distress.  Most likely explanation is NSTEMI due to demand
   ischemia driven by sepsis and tachycardia.
   - started asa 325mg
   - Started on lipitor
   - Consider a beta blocker, however, patient has COPD so worry about
   side effects
   - needs TTE
   # Hematuria
 Patient had hematuria. Found to have clots in his
   bladder. Started CBI and urology said can D/C it. Hematuria resolved in
   AM. U/A negative for infection
   - Need to f/u with urology.
   .
   #. Diastolic CHF (EF >55%): Pt appears euvolemic on exam.  He is on
   lasix at home. BNP: 380 (prior 398). CXR did not show edema or
   effusions that would inidicate acute exacerbation.
   - Will monitor volume status
   - On home lasix 30 po daily
   .
   .
   #. Aortic stenosis: Pt valve area 1.0 on cath [**4-27**]. Currently stable
   and will monitor closely.  Pt is pre-load dependent.
   - replete fluids as necessary to maintain preload
   - TTE
   .
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:  HISS.
   Lines:
   Hold off on PICC today given INR 3.6
   18 Gauge - [**2159-7-18**] 12:34 PM
   20 Gauge - [**2159-7-18**] 03:30 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Will be transferred to the floors today.
   ------ Protected Section ------
   MICU Attending  Addendum
   On this day I examined the patient and was present for the key portion
   of the services provided.  I have reviewed the above note by Dr [**Last Name (STitle) 7523**]
   and agree with his findings and plan of care.  Mr [**Known lastname 2964**] has very
   severe COPD which he feels is nearly back to baseline, though he
   remains of high dose steroids, Nebs, O2, and antibiotics for his COPD
   flare. He was able to go without using BIPAP last night. Steroids are
   being tapered slowly.
    His CDiff is being Rx
d with po Vanco, and he is showing no signs of
   the sepsis that brought him into MICU. Prlonged QT has been corrected
   by stopping dofetilide and levaquin. Dofetilide will be reintroduced.
   If he continues to look and feel well throughout the day he may be
   called out to the floor.
   [**First Name8 (NamePattern2) 548**] [**Last Name (NamePattern1) 549**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 548**] [**Last Name (NamePattern1) 549**], MD
   on:[**2159-7-21**] 01:58 PM ------